.subckt fsdprb_x1 Q QN CK D SI SE RD VDD VSS
XFSDPRB_sei_P0 FSDPRB_se_b SE VDD VDD pmos w=2u l=100n
XFSDPRB_sei_N0 FSDPRB_se_b SE VSS VSS nmos w=1u l=100n
XFSDPRB_smx_MP0 FSDPRB_din SE D VDD pmos w=2u l=100n
XFSDPRB_smx_MN0 FSDPRB_din FSDPRB_se_b D VSS nmos w=1u l=100n
XFSDPRB_smx_MP1 FSDPRB_din FSDPRB_se_b SI VDD pmos w=2u l=100n
XFSDPRB_smx_MN1 FSDPRB_din SE SI VSS nmos w=1u l=100n
XFSDPRB_ck_P0 FSDPRB_ck_b CK VDD VDD pmos w=2u l=100n
XFSDPRB_ck_N0 FSDPRB_ck_b CK VSS VSS nmos w=1u l=100n
XFSDPRB_m_in_P FSDPRB_m_n1 CK FSDPRB_din VDD pmos w=2u l=100n
XFSDPRB_m_in_N FSDPRB_m_n1 FSDPRB_ck_b FSDPRB_din VSS nmos w=1u l=100n
XFSDPRB_m_i1_P0 FSDPRB_m_n2 FSDPRB_m_n1 VDD VDD pmos w=2u l=100n
XFSDPRB_m_i1_N0 FSDPRB_m_n2 FSDPRB_m_n1 VSS VSS nmos w=1u l=100n
XFSDPRB_m_i2_P0 FSDPRB_m_n1 FSDPRB_m_n2 VDD VDD pmos w=2u l=100n
XFSDPRB_m_i2_N0 FSDPRB_m_n1 FSDPRB_m_n2 VSS VSS nmos w=1u l=100n
XFSDPRB_m_fb_P FSDPRB_m_n1 FSDPRB_ck_b FSDPRB_m_n2 VDD pmos w=2u l=100n
XFSDPRB_m_fb_N FSDPRB_m_n1 CK FSDPRB_m_n2 VSS nmos w=1u l=100n
XFSDPRB_m_o_P0 FSDPRB_qm FSDPRB_m_n2 VDD VDD pmos w=2u l=100n
XFSDPRB_m_o_N0 FSDPRB_qm FSDPRB_m_n2 VSS VSS nmos w=1u l=100n
XFSDPRB_s_in_P FSDPRB_s_n1 FSDPRB_ck_b FSDPRB_qm VDD pmos w=2u l=100n
XFSDPRB_s_in_N FSDPRB_s_n1 CK FSDPRB_qm VSS nmos w=1u l=100n
XFSDPRB_s_i1_P0 FSDPRB_s_n2 FSDPRB_s_n1 VDD VDD pmos w=2u l=100n
XFSDPRB_s_i1_N0 FSDPRB_s_n2 FSDPRB_s_n1 VSS VSS nmos w=1u l=100n
XFSDPRB_s_i2_P0 FSDPRB_s_n1 FSDPRB_s_n2 VDD VDD pmos w=2u l=100n
XFSDPRB_s_i2_N0 FSDPRB_s_n1 FSDPRB_s_n2 VSS VSS nmos w=1u l=100n
XFSDPRB_s_fb_P FSDPRB_s_n1 CK FSDPRB_s_n2 VDD pmos w=2u l=100n
XFSDPRB_s_fb_N FSDPRB_s_n1 FSDPRB_ck_b FSDPRB_s_n2 VSS nmos w=1u l=100n
XFSDPRB_s_o_P0 Q FSDPRB_s_n2 VDD VDD pmos w=2u l=100n
XFSDPRB_s_o_N0 Q FSDPRB_s_n2 VSS VSS nmos w=1u l=100n
XFSDPRB_qn_P0 QN Q VDD VDD pmos w=2u l=100n
XFSDPRB_qn_N0 QN Q VSS VSS nmos w=1u l=100n
XFSDPRB_rdi_P0 FSDPRB_rd_b RD VDD VDD pmos w=2u l=100n
XFSDPRB_rdi_N0 FSDPRB_rd_b RD VSS VSS nmos w=1u l=100n
XFSDPRB_rcl Q FSDPRB_rd_b VSS VSS nmos w=1u l=100n
.ends fsdprb_x1
